US07939467B2
Step 1: 3-(2,2-Diethoxyethyl)amino-2-methyl-4-(methylsulfonyl)benzoic acid
5.1 g (22 mmol) of 3-fluoro-2-methyl-4-(methylsulfonyl)benzoic acid were dissolved in 30 ml (218 mmol) of aminoacetaldehyde diethyl acetal. The mixture was heated at 120° C. with stirring for 2 days, cooled to RT, acidified with 10% strength H2SO4 and extracted twice with ethyl acetate. The combined organic phases were dried over MgSO4, and the solvent was removed under reduced pressure. This gave 4.0 g of a yellow oil of a purity of 91%.

reactant | 3-fluoro-2-methyl-4-(methylsulfonyl)benzoic acid | 22 mmol, 5.1 g | FC=1C(=C(C(=O)O)C=CC1S(=O)(=O)C)C | C9H9FO4S
reactant | aminoacetaldehyde diethyl acetal | 218 mmol, 30 ml | C(C)OC(CN)OCC | C6H15NO2
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
product | 3-(2,2-Diethoxyethyl)amino-2-methyl-4-(methylsulfonyl)benzoic acid | C(C)OC(CNC=1C(=C(C(=O)O)C=CC1S(=O)(=O)C)C)OCC | C15H23NO6S
